US05382590
A suspension of 1.6 g of (RS)-1-(α-phenylaminophenylacetyl)pyrrolidine and 1.2 g of 2-[3-(3-methylphenyl)ureido]acetic acid in 50 cm3 of anhydrous 1,2-dichlorethane is heated to reflux. 0.68 g of thionyl chloride is added, maintaining reflux until the evolution of gas has ceased. The reaction mixture is then poured into 30 cm3 of a saturated aqueous sodium bicarbonate solution and 50 cm3 of methylene chloride are then added. The organic phase is washed with 50 cm3 of distilled water, dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The product obtained is purified by chromatography on 50 g of silica (0.065-0.200 mm) contained in a column 2.2 cm in diameter [eluent: ethyl acetate/methylene chloride (50-50 by volume)], collecting 25 cm3 fractions. Fractions 9 to 22 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from a mixture of ethyl acetate and acetonitrile (90-10 by volume), 0.55 g of (RS)-2-[3-(3-methylphenyl)ureido]-N-[2-oxo-1-phenyl-2-(1-pyrrolidinyl)ethyl]-N-phenylacetamide melting at 138° C. is obtained.

reactant | (RS)-1-(α-phenylaminophenylacetyl)pyrrolidine | 1.6 g | C1(=CC=CC=C1)NC(C(=O)N1CCCC1)C1=CC=CC=C1 | C18H20N2O
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 1.2 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | thionyl chloride | 0.68 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | 30 cm3 | C([O-])(O)=O.[Na+]
solvent | 1,2-dichlorethane | 50 cm3 | ClCCCl | C2H4Cl2
solvent | methylene chloride | 50 cm3 | C(Cl)Cl | CH2Cl2
product | (RS)-2-[3-(3-methylphenyl)ureido]-N-[2-oxo-1-phenyl-2-(1-pyrrolidinyl)ethyl]-N-phenylacetamide | 0.55 g | CC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)C(C(N1CCCC1)=O)C1=CC=CC=C1)=O | C28H30N4O3
